US05118665
Na -t-butyloxycarbonyl-Nim -benzyloxycarbonyl-L-histidine was dissolved in tetrahydrofuran (THF) and neutralized with one equivalent of N-methylmorpholine. It was then coupled with glycinamide hydrochloride using isobutyl chloroformate and N-methylmorpholine. After two hours at -20° C. and an additional hour at ambient temperature, the reaction was quenched with 2N aqueous potassium bicarbonate. This product was extracted into ethyl acetate, washed with 1M aqueous citric acid, and saturated sodium bicarbonate. The organic phase was dried over anhydrous sodium sulfate. Filtration and evaporation gave Na -t-butyloxycarbonyl-Nim -benzyloxycarbonyl-L-histidyl-glycine amide.

reactant | benzyloxycarbonyl-L-histidine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C14H15N3O4
reactant | N-methylmorpholine | one equivalent | CN1CCOCC1 | C5H11NO
reactant | glycinamide hydrochloride | Cl.NCC(=O)N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyloxycarbonyl-L-histidyl-glycine amide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)NCC(=O)N | C16H19N5O4
